US09388176B2
Methyl-4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-benzoate
Procedure adopted from Tetrahedron Lett., 2007, 48, 2519. A thick-walled glass reaction vessel was charged with palladium(II)acetate (157 mg, 0.698 mmol), X-Phos (332 mg, 0.698 mmol, 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl), cesium carbonate (4.55 g, 13.96 mmol) and 5:1 (v/v) toluene:t-BuOH (20 mL). The stirred contents were purged with nitrogen and a solution of 4-piperidone ethylene ketal (1.80 mL, 13.96 mmol) and methyl-4-bromobenzoate (3.30 g, 15.36 mmol) in 5:1 (v/v) toluene:t-BuOH (100 mL) was added. After stirring for 2 minutes, the vessel was sealed and the reaction mixture was heated at 120° C. for 18 hours. Upon cooling to room temperature, the reaction mixture was filtered through celite and the filtrate was concentrated. Elution through a flash column (silica gel 60, 230-400 mesh, 3:2 hexanes:EtOAc) gave the title compound as an off-white, crystalline solid (3.20 g, 83%).

reactant | X-Phos | 0.698 mmol, 332 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | cesium carbonate | 13.96 mmol, 4.55 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-piperidone ethylene ketal | 13.96 mmol, 1.80 mL | C1COC2(CCNCC2)O1 | C7H13NO2
reactant | methyl-4-bromobenzoate | 15.36 mmol, 3.30 g | COC(C1=CC=C(C=C1)Br)=O | C8H7BrO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II)acetate | 0.698 mmol, 157 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | t-BuOH | 100 mL | CC(C)(C)O | C4H10O
solvent | t-BuOH | 20 mL | CC(C)(C)O | C4H10O
product | Methyl-4-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-benzoate | COC(C1=CC=C(C=C1)N1CCC2(OCCO2)CC1)=O | C15H19NO4
